Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Zithromax / Macrolide 
Antibiotics / lactose / magnesium
 
Attending: ___.
 
Chief Complaint:
palpitations
 
Major Surgical or Invasive Procedure:
___ ___
 
History of Present Illness:
___ y/o female pmhx of IBS, osteopenia, reported hx of cdiff,
MVP/MR who presents as a transfer w/ Afib/RVR and hypotension 
now
s/p cardioversion.

Patient reports feeling palpitations on the doa iso abdominal
pain and nausea. EMS was called, and on arrival found the 
patient
with rates in the 200s, originally c/f Vtach. Rhythm slowed w/
vagal maneuvers and was evidently SVT. They did a vagal maneuver
followed by adenosine 6 mg, then 12 mg revealing AfibRVR. 
Patient
was given diltiazem 20mg and was taken to OSH. While there she
was found to be hypotensive and was given 3L of IVF, started on
phenylephrine, esmolol drip, and hep gtt. She was subsequently
transferred here. 

In the ED,  
 - Initial vitals were:  T 97.7 HR 110 BP 80/56 RR 18 O2 96 RA
 - Exam notable for:  Irregularly irregular rhythm. No JVD.
Normal mentation/neuro exam.
 - Labs notable for: H/H 10.2/31.7. Normal Chemistry. Lactate
1.1. Trop 0.12. proBNP 643
 - Studies notable for:  Bedside echocardiogram with no
pericardial effusion.  chest x-ray with no overt pulmonary edema
 - Patient was given:  Etomidate 5, fentanyl 50mcg, Mag 4g.
Patient was cardioverted back to NSR. Given 500 CC IVF. 

On arrival to the CCU,  patient endorses the hx above. States
that she has no complaints. No new tremor, heat intolerance.
Patient is adamant that she is DNR/DNI.

ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative.  

 
Past Medical History:
 Cardiac History:  
 -  MR/MVP

 Other PMH:  
 -  IBS
 -  osteopenia
 -  cdiff

 
Social History:
___
Family History:
Mother: hypertension, TIA, high cholesterol
Father: TIA, hypertension
Siser: thyroid cancer

 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
GENERAL: NAD lying flat
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 


NECK: Supple. JVP just above the clavicle at 30 degrees.  
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or
gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No adventitious breath
sounds.  
ABDOMEN: Soft, non-tender, non-distended. No palpable
hepatomegaly or splenomegaly.  
EXTREMITIES: Warm, well perfused.  
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  No edema
NEURO: AOX3, moving all extremities, smile symmetric.

DISCHARGE PHYSICAL EXAM
==========================
GENERAL: NAD lying flat
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 


NECK: Supple. JVP just above the clavicle at 30 degrees.  
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or
gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No adventitious breath
sounds.  
ABDOMEN: Soft, non-tender, non-distended. No palpable
hepatomegaly or splenomegaly.  
EXTREMITIES: Warm, well perfused.  
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  No edema
NEURO: AOX3, moving all extremities, smile symmetric.

 
Pertinent Results:
NOTABLE LABS
==============
___ 12:40AM BLOOD WBC-5.9 RBC-3.27* Hgb-10.2* Hct-31.7* 
MCV-97 MCH-31.2 MCHC-32.2 RDW-12.6 RDWSD-44.3 Plt ___
___ 05:09AM BLOOD ___ PTT-22.7* ___
___ 12:40AM BLOOD Glucose-99 UreaN-12 Creat-0.5 Na-145 
K-3.9 Cl-116* HCO3-21* AnGap-8*
___ 05:09AM BLOOD ALT-38 AST-39 LD(LDH)-189 AlkPhos-70 
TotBili-0.4
___ 12:40AM BLOOD cTropnT-0.12* proBNP-643*
___ 05:09AM BLOOD CK-MB-3 cTropnT-0.10*
___ 05:09AM BLOOD Albumin-3.4* Calcium-8.4 Phos-3.3 Mg-3.2*
___ 05:09AM BLOOD %HbA1c-5.8 eAG-120
___ 05:09AM BLOOD Triglyc-55
___ 05:09AM BLOOD TSH-3.6
___ 12:54AM BLOOD Lactate-1.1
___ 07:32AM URINE Hours-RANDOM Creat-65 TotProt-52 
Prot/Cr-0.8*

IMAGING
========
___ CXR
There is severe thoracic scoliosis.  The lungs are well 
expanded.  Mild 
pulmonary vascular congestion and mild interstitial pulmonary 
edema as 
evidenced by mild cardiomegaly and interlobular septal 
thickening.  Heart size is mildly enlarged.  Small radiopaque 
objects project over the left breast. 
IMPRESSION:  
Mild pulmonary edema 

___ TTE
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler.
The estimated right atrial pressure is ___ mmHg. There is normal 
left ventricular wall thickness with a normal
cavity size. There is normal regional and global left 
ventricular systolic function. Quantitative biplane left
ventricular ejection fraction is 66 %. There is no resting left 
ventricular outflow tract gradient. Normal
right ventricular cavity size with normal free wall motion. The 
aortic sinus diameter is normal for gender with
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. There is no evidence for an
aortic arch coarctation. The aortic valve leaflets (3) are 
mildly thickened. There is no aortic valve stenosis.
There is trace aortic regurgitation. The mitral valve leaflets 
are mildly thickend and myxomatous with mild
posterior leaflet systolic prolapse. There is an eccentric, 
inferolateral directed jet of mild [1+] mitral
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is mild [1+] tricuspid
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is a small to moderate
loculated pericardial effusion. There are no 2D or Doppler 
echocardiographic evidence of tamponade.
IMPRESSION: Normal left ventricular wall thickness, cavity size, 
and regional/global systolic
function. Mild posterior mitral valve prolapse. Mild mitral 
regurgitation. Mild tricuspid
regurgitation. Normal estimated pulmonary artery systolic 
pressure. Small to moderate
predominantly anterior, loculated pericardial effusion without 
echocardiographic evidence of
tamponade.

 
Brief Hospital Course:
___ year old woman with a history of MVP/MR, osteopenia, reported 
hx of cdiff, IBS, who presented as a transfer w/ Afib/RVR and 
hypotension now s/p cardioversion.

TRANSITIONAL ISSUES
=====================
[] She was found to have a small to moderate pericardial 
effusion, without tamponade physiology. A follow up TTE is 
recommended. 
[] The patient expressed concern for being able to pay for 
apixaban moving forward. Please reassess the most appropriate 
anticoagulation strategy.
[] Patient was adamant about being DNR/DNI. Her code status 
should be further explored and documented as an outpatient.

NEW MEDICATIONS: Apixaban, metoprolol

ACUTE ISSUES
==============
#AFib with RVR
Patient transferred after developing hypotension with new onset 
AFib. She was cardioverted in the ED, reverting back to sinus. 
She was admitted to the CCU for monitoring. She was started on a 
heparin drip overnight. She had no arrhythmia on telemetry. In 
the morning, she was started on metoprolol for rate control, and 
switched to apixaban for anticoagulation. She'll continue both 
these medications as an outpatient. 

#NSTEMI
Patient had a type II NSTEMI iso arrhythmia and cardioversion. 
Her EKG showed no signs of ischemia. A TTE showed normal left 
ventricular wall thickness, cavity size, and regional/global 
systolic
function. Mild posterior mitral valve prolapse. Mild mitral 
regurgitation. Mild tricuspid regurgitation. Normal estimated 
pulmonary artery systolic pressure. Small to moderate 
predominantly anterior, loculated pericardial effusion without 
echocardiographic evidence of tamponade.

CHRONIC ISSUES
===============
#Osteoporosis
Patient on alendronate, however not consistently taking.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO QHS:PRN insomnia 
2. Vitamin D 1000 UNIT PO DAILY 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth Twice daily 
Disp #*60 Tablet Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*3 
3.  LORazepam 0.5 mg PO QHS:PRN insomnia  
4.  Multivitamins 1 TAB PO DAILY  
5.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Atrial fibrillation

SECONDARY DIAGNOSIS
=====================
Osteoporosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital to monitor you after your 
cardioversion.

WHAT HAPPENED IN THE HOSPITAL?
Your heart rhythm was monitored and there was no signs of atrial 
fibrillation. You were started on a medication to control your 
heart rate called metoprolol, and a blood thinner called 
heparin.

WHAT ARE THE NEXT STEPS?
- Please continue taking your medications as below
- Please follow up with your doctors as below

It was a pleasure taking care of you!

Your ___ Care Team
 
Followup Instructions:
___